US05378729
Preparation of 2-acetamido-2-bromo-N-benzylacetamide
A solution of 2-acetamido-2-ethoxy-N-benzylacetamide (2.00 g, 8 mmol) in dry CH2Cl2 (200 mL) was stirred at room temperature as a solution of BBr3 (8.8 mL, 8.8 mmol, 1.0M in CH2Cl2) was introduced by means of a syringe under a nitrogen atmosphere. A white mist formed and after it disappeared, the N2 line was removed and the reaction sealed. The resulting yellow solution was stirred (3.5 h) and then concentrated in vacuo to give yellow crystals of α-acetamido-2-bromo-N-benzyl acetamido which was stored under vacuum overnight.

reactant | 2-acetamido-2-ethoxy-N-benzylacetamide | 8 mmol, 2.00 g | C(C)(=O)NC(C(=O)NCC1=CC=CC=C1)OCC | C13H18N2O3
reactant | BBr3 | 8.8 mmol, 1.0M, 8.8 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-acetamido-2-bromo-N-benzylacetamide | C(C)(=O)NC(C(=O)NCC1=CC=CC=C1)Br | C11H13BrN2O2
